US07432391B2
2-Bromoethylamine hydrobromide (575 g) and 765 g of methanol were charged in a flask and cooled down to −5° C. and 510 g of di-tert-butyl dicarbonate was added thereto. After that, 387 g of a 29% aqueous solution of sodium hydroxide was dropped thereinto, then 102 g of water was added thereto and the mixture was made to react at −10 to 10° C. for 5 hours. Then 510 g of water was added, the mixture was cooled down to 3° C. or lower and seed crystals were poured thereinto. Further, 1,020 g of water was dropped thereinto at 3° C. or lower, the mixture was kept at 3° C. or lower for 1 hour and the crystals separated out therefrom were filtered. The resulting crystals were washed with methanol/water and dried to give 487 g of crystals of tert-butyl N-(2-bromoethyl)carbamate (yield: 93%; NMR purity: 100%).

reactant | 2-Bromoethylamine hydrobromide | 575 g | Br.BrCCN
reactant | methanol | 765 g | CO | CH4O
reactant | di-tert-butyl dicarbonate | 510 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 1,020 g | O | H2O
solvent | water | 510 g | O | H2O
solvent | water | 102 g | O | H2O
product | tert-butyl N-(2-bromoethyl)carbamate | yield: 93% | BrCCNC(OC(C)(C)C)=O | C7H14BrNO2
